US04390697
124 g (1.2 M) of 4-chlorobutyronitrile were dissolved in 600 ml of toluene and the mixture was refluxed under a Dean-Stark separator for 1 hour. The resultant solution was cooled and then 158 g (1 M) of ethyl piperazine-1-carboxylate and 170 ml (1.2 M) of triethylamine were added thereto and the mixture was refluxed for 24 hours. The resulting suspension was cooled to 20° C. and one liter of ether was added thereto. The precipitate of triethylamine hydrochloride was filtered off and the filtrate was decolorized with charcoal and evaporated to dryness to obtain 200 g of ethyl 4-(3-cyclopropyl)-piperazine-1-carboxylate in the form of a brown oil which was distilled under reduced pressure at a boiling point of 140°-150° C. at 0.05 mm Hg.

reactant | 4-chlorobutyronitrile | 1.2 M, 124 g | ClCCCC#N | C4H6ClN
reactant | ethyl piperazine-1-carboxylate | 1 M, 158 g | N1(CCNCC1)C(=O)OCC | C7H14N2O2
reactant | triethylamine | 1.2 M, 170 ml | C(C)N(CC)CC | C6H15N
reactant | ether | one liter | CCOCC | C4H10O
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 4-(3-cyclopropyl)-piperazine-1-carboxylate | 200 g | C1CC1N1CCN(CC1)C(=O)OCC | C10H18N2O2
